US05510345
Preparation of 4-chloro-2-(1,1-dimethylethylamino)-6-pyrrolidinopyrimidine
4,6-Dichloro-2-(1,1-dimethylethylamino)pyrimidine is reacted with pyrrolidine as described in Example 28 to give the title compound in a yield of 93%, m p.: 153°-157° C.

reactant | 4,6-Dichloro-2-(1,1-dimethylethylamino)pyrimidine | ClC1=NC(=NC(=C1)Cl)NC(C)(C)C | C8H11Cl2N3
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 4-chloro-2-(1,1-dimethylethylamino)-6-pyrrolidinopyrimidine | yield of 93% | ClC1=NC(=NC(=C1)N1CCCC1)NC(C)(C)C | C12H19ClN4
